US07528147B2
But using 5 g of 5-fluoropyridin-2-ylamine and 11.04 g of N-iodosuccinimide in 250 ml of glacial acetic acid. 6.1 g of 5-fluoro-3-iodopyridin-2-ylamine are thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 5-fluoropyridin-2-ylamine | 5 g | FC=1C=CC(=NC1)N | C5H5FN2
reactant | N-iodosuccinimide | 11.04 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 5-fluoro-3-iodopyridin-2-ylamine | 6.1 g | FC=1C=C(C(=NC1)N)I | C5H4FIN2
